US08377954B2
To a solution of 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione (Intermediate 1A.4-1, 100 mg, 0.29 mmol) in methanol (0.1 ml) was added 2,2-dimethoxyethylamine (2 ml). The reaction was allowed to stir at 100° C. until the starting material was consumed. The reaction was concentrated in vacuo, and the residue was dissolved in toluene. The reaction was treated with a catalytic amount of p-toluenesulfonic acid and allowed to stir at 110° C. for 18 h. The crude reaction was purified via reverse phase chromatography to yield 1-benzyl-5′-(3-fluorophenyl)-1′H-spiro[piperidine-4,6′-pyrrolo[3,4-b]pyrrol]-4′(5′H)-one. LCMS (M+H) 376.1. 1H NMR (400 MHz, CD3OD) δ 7.50 (m, 7H), 7.23 (td, J=8.4, 2.1 Hz, 2H), 7.07 (m, 3H), 6.43 (d, J=2.8 Hz, 1H), 4.41 (s, 2H), 3.64 (d, J=13.6 Hz, 2H), 3.43 (t, J=12.6 Hz, 3H), 2.28 (td, J=14.1, 4.0 Hz, 2H), 2.02 (d, J=15.6 Hz, 2H).

reactant | 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione | 0.29 mmol, 100 mg | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC(=CC=C2)F)=O)=O)CC1 | C21H21FN2O2
reactant | 2,2-dimethoxyethylamine | 2 ml | COC(CN)OC | C4H11NO2
solvent | methanol | 0.1 ml | CO | CH4O
product | 1-benzyl-5′-(3-fluorophenyl)-1′H-spiro[piperidine-4,6′-pyrrolo[3,4-b]pyrrol]-4′(5′H)-one | C(C1=CC=CC=C1)N1CCC2(N(C(C3=C2NC=C3)=O)C3=CC(=CC=C3)F)CC1 | C23H22FN3O
